US06258775B1
(a) 6-[1-(3-Iodophenyl)vinyl]-1,1,4,4,7-pentamethyl-1,2,3,4-tetrahydronaphthalene.
Potassium tert-butoxide (7.26 g, 64.8 [lacuna]) is added to a solution of 3-iodophenyl-(3,5,5,8,8-pentamethyl-5,6,7,8-tetrahydro-2-naphthyl)-methanone (20 g, 46.3 mmol) and methyltriphenylphosphonium bromide (21.5 g, 60.2 mmol) in THF (100 ml). The mixture is stirred for 20 h at room temperature. The solution is extracted with ethyl acetate. After separation of the phases by settling, the organic phase is washed twice with 40 ml of water, dried over anhydrous magnesium sulphate and concentrated on a rotary evaporator under vacuum at 40° C. The product is purified by flash chromatography on a column of silica.

reactant | Potassium tert-butoxide | 7.26 g | CC(C)([O-])C.[K+]
reactant | 3-iodophenyl-(3,5,5,8,8-pentamethyl-5,6,7,8-tetrahydro-2-naphthyl)-methanone | 46.3 mmol, 20 g | IC=1C=C(C=CC1)C(=O)C1=CC=2C(CCC(C2C=C1C)(C)C)(C)C | C22H25IO
catalyst | methyltriphenylphosphonium bromide | 60.2 mmol, 21.5 g | [Br-].C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
solvent | THF | 100 ml | C1CCOC1 | C4H8O
product | 6-[1-(3-Iodophenyl)vinyl]-1,1,4,4,7-pentamethyl-1,2,3,4-tetrahydronaphthalene | IC=1C=C(C=CC1)C(=C)C=1C=C2C(CCC(C2=CC1C)(C)C)(C)C | C23H27I
